US06051592
At room temperature, a solution of 0.63 ml (5 mmol) of 4-chloro-benzoyl chloride in 5 ml of absolute tetrahydrofuran is added dropwise with stirring to a mixture of 1.72 g (5 mmol) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol, 0.69 g (5 mmol) of anhydrous potassium carbonate and 20 ml of absolute tetrahydrofuran. The reaction mixture is stirred at room temperature for a further 20 hours and then filtered off with suction and concentrated under reduced pressure. In this manner, 2.4 g (99% of theory) of 2-(1-chloro-cyclopropyl)-1(2-chlorophenyl)-3-[5-(4-chloro-benzoyl-mercapto)-1,2,4-triazol-1-yl]-propan-2-ol are obtained in the form of an oil.

reactant | 4-chloro-benzoyl chloride | 5 mmol, 0.63 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol | 5 mmol, 1.72 g | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1S)O | C14H15Cl2N3OS
reactant | potassium carbonate | 5 mmol, 0.69 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(1-chloro-cyclopropyl)-1(2-chlorophenyl)-3-[5-(4-chloro-benzoyl-mercapto)-1,2,4-triazol-1-yl]-propan-2-ol | 2.4 g, 99% | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1SC(C1=CC=C(C=C1)Cl)=O)O | C21H18Cl3N3O2S
